US06251936B1
[3-Bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-methoxy-phenylamino]-acetic Acid
Aqueous potassium hydroxide (1N, 0.64 mL, 0.64 mmol) was added to a stirred room temperature solution of [3-bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-methoxy-phenylamino]-acetic acid methyl ester (0.180 g, 0.320 mmol) in THF (2.5 mL), methanol (1.5 mL). After 4 h, the solvent was removed and water was added. The suspension was acidified and extracted with ether. Silica gel was added. The ether was removed and the adsorbate was flash chromatographed (Gradient: 7:3pet. ether: ethyl acetate to ethyl acetate to 9:1 ethyl acetate:methanol) to provide the title compound as a white solid (0.112 g, 64%): mp >190° C. (dec): NMR (DMSO-d6); 8.16 (d, J=8 Hz, 1H), 7.63 (ddd, J=8, 6, 1 Hz, 1H), 7.56 (d, J=8 Hz, 1H), 7.48 (ddd, J=8, 6, 1 Hz, 1H), 6.72 (d, J=2 Hz, 1H), 6.43 (d, J=2 Hz, 1H), 5.74 broad s, 1H), 3.83 (s, 3H), 3.46 (s, 2H), 2.42 (s, 3H), 1.71 (s, 3H); MS (FAB+): 2 bromine isotope pattern 547, 549, 551; Anal. Calc. for C23H19Br2NO3S: C, 50.29; H, 3.49; N, 2.55. Found: C, 49.54; H, 3.73; N, 2.26.

reactant | potassium hydroxide | 0.64 mmol, 1N, 0.64 mL | [OH-].[K+]
reactant | [3-bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-methoxy-phenylamino]-acetic acid methyl ester | 0.320 mmol, 0.180 g | COC(CNC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)Br)OC)=O | C24H21Br2NO3S
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.5 mL | CO | CH4O
product | [3-Bromo-5-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-methoxy-phenylamino]-acetic Acid | 0.112 g, 64% | BrC=1C(=C(C=C(C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)NCC(=O)O)OC | C23H19Br2NO3S
